US09227985B2
Triphosgene (40 mg, 0.1 mmol) was added to the solution of 3-methyl-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine (90 mg, 0.4 mmol) in tetrahydrofuran (10 mL) and N,N-diisopropylethylamine (100 μL) at room temperature. The reaction was stirred for 1 h and was then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated to give crude 4-methyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one as a semisolid (0.10 g. 90%). LCMS calculated for C15H14N3O2 (M+H)+: m/z=268.1. found: 268.0.

reactant | Triphosgene | 0.1 mmol, 40 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-methyl-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine | 0.4 mmol, 90 mg | CC1(COC=2C(N1)=C(C=CC2)N)C2=NC=CC=C2 | C14H15N3O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | N,N-diisopropylethylamine | 100 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-methyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | CC1(COC2=C3N1C(NC3=CC=C2)=O)C2=NC=CC=C2 | C15H13N3O2
